US05516774
N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H]-ylcarbonyl)phenyl]-2,4-dichlorobenzamide
To a solution of 415 mg of 2,4-dichlorobenzoyl chloride in 5 ml of methylene chloride at 0° C. is added 346 μl of triethylamine. After stirring for 3 minutes, 500 mg of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is added. The bath is removed and the reaction mixture stirred at room temperature for 18 hours. The volatiles are concentrated in vacuo to give a residue which is dissolved in ethyl acetate, washed with water, 2N citric acid, 1M NaHCO3 and brine. The organic layer is dried with Na2SO4, filtered and concentrated in vacuo to give a residue which is crystallized from ethyl acetate to give 420 mg of the desired product as a crystalline solid, m.p., 210°-212° C.

reactant | 2,4-dichlorobenzoyl chloride | 415 mg | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | triethylamine | 346 μl | C(C)N(CC)CC | C6H15N
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 500 mg | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H]-ylcarbonyl)phenyl]-2,4-dichlorobenzamide | 420 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C26H19Cl2N3O2
